US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-N′-phenylcyclopropane-1,1-dicarboxamide
To a solution of N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (142 mg, 0.461 mmol) in N,N-dimethylacetamide (2.8 mL) were added 1-(phenylcarbamoyl)cyclopropanecarboxylic acid (142 mg, 0.691 mmol), HATU (263 mg, 0.691 mmol) and N,N-diisopropylethylamine (120 μL, 0.691 mmol), and the mixture was stirred at room temperature for 4 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=40/60→0/100), washed with hexane/ethyl acetate and collected by filtration to give the title compound (130 mg, 57%) as a white solid.

reactant | N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.461 mmol, 142 mg | NC1=CC=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1 | C17H16N4O2
reactant | 1-(phenylcarbamoyl)cyclopropanecarboxylic acid | 0.691 mmol, 142 mg | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H11NO3
reactant | HATU | 0.691 mmol, 263 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.691 mmol, 120 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 2.8 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-N′-phenylcyclopropane-1,1-dicarboxamide | 130 mg, 57% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=CC=CC=C2)C1 | C28H25N5O4
